US07030139B2
57D: 6-amino-5-[[(4-ethoxyphenyl)acetyl]amino]-N,N-diethyl-3-pyridinecarboxamide
To a degassed solution of 5-[[(4-ethoxyphenyl)acetyl]amino]-N,N-diethyl-6-(2-propenylamino)-3-pyridinecarboxamide (1.04 g, 2.53 mmol) in dichloromethane (20 mL) at room temperature was added palladium tetrakis (117 mg, 0.10 mmol), followed by acetic acid (580 μL, 10.14 mmol) and phenyl silane (625 μL, 5.07 mmol). The mixture was stirred for 6 hours. The reaction was then quenched with NaHCO3 saturated aqueous solution (50 mL) and extracted with EtOAc (20 mL). The aqueous phase was back-extracted with additional dichloromethane (2×20 mL). The organic phases were combined, dried with MgSO4, filtered and concentrated in vacuo. The residue was purified using silica gel flash chromatography ([3% MeOH+1% NH4OHaq] in CH2Cl2) to provide 705 mg of the title compound 6-amino-5-[[(4-ethoxyphenyl)acetyl]amino]-N,N-diethyl-3-pyridinecarboxamide (75.2% yield from 5-[[(4-ethoxyphenyl)acetyl]amino]-N,N-diethyl-6-(2-propenylamino)-3-pyridinecarboxamide). 1H-NMR (400 MHz, CDCl3): δ 1.18 (br s, 6H), 1.43 (t, J=7.0 Hz, 3H), 3.42 (br s, 4H), 3.69 (s, 2H), 4.04 (q, J=7.0 Hz, 2H), 4.73 (s, 2H), 6.91 (d, J=8.6 Hz, 2H), 7.26 (d, J=8.6 Hz, 2H), 7.38 (m, 1H), 7.78 (s, 1H), 7.95 (m, 1H). MS (ESI) (M+H)+: 372.

reactant | 5-[[(4-ethoxyphenyl)acetyl]amino]-N,N-diethyl-6-(2-propenylamino)-3-pyridinecarboxamide | 2.53 mmol, 1.04 g | C(C)OC1=CC=C(C=C1)CC(=O)NC=1C=C(C=NC1NCC=C)C(=O)N(CC)CC | C23H30N4O3
reactant | acetic acid | 10.14 mmol, 580 μL | C(C)(=O)O | C2H4O2
reactant | phenyl silane | 5.07 mmol, 625 μL | C1(=CC=CC=C1)[SiH3] | C6H8Si
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | palladium tetrakis | 0.10 mmol, 117 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-amino-5-[[(4-ethoxyphenyl)acetyl]amino]-N,N-diethyl-3-pyridinecarboxamide | 75.2% yield | NC1=C(C=C(C=N1)C(=O)N(CC)CC)NC(CC1=CC=C(C=C1)OCC)=O | C20H26N4O3
